US07696229B2
A solution of O(COCF3)2 (6.3 g, 29.95 mmol) in CHCl3 (30 mL) was added dropwise to a solution of 1,2,3,4-tetrahydroquinoline (2.66 g, 19.97 mmol) in chloroform (20 mL) at 5° C., and the resulting mixture was stirred for 2 hours at room temperature. The mixture was concentrated, and the residue was purified by column chromatography using a 1:10 ethyl acetate/petroleum ether solvent system to afford 4 g (87%) of 1-(3,4-dihydroquinolin-1(2H)-yl)-2,2,2-trifluoroethanone as a yellow liquid.

reactant | O(COCF3)2 | 29.95 mmol, 6.3 g | O(C(=O)C(F)(F)F)C(=O)C(F)(F)F | C4F6O3
reactant | 1,2,3,4-tetrahydroquinoline | 19.97 mmol, 2.66 g | N1CCCC2=CC=CC=C12 | C9H11N
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,4-dihydroquinolin-1(2H)-yl)-2,2,2-trifluoroethanone | 4 g, 87% | N1(CCCC2=CC=CC=C12)C(C(F)(F)F)=O | C11H10F3NO
